US06489347B1
4-(4-Fluorophenyl)-3-formylpiperidine-6-one
DIBAL-H (4.03 ml, 6 mmol) was added gradually at a rate of 5.6 ml/hour, by means of a syringe pump, to a solution of 3-carboxyethyl-4-(4-fluorophenyl)-piperidine-6-one (0.53 g, 2 mmol) in 4 ml tetrahydrofuran at −70° C. under an argon atmosphere. The reaction mixture was stirred for 1 hour at −70° C. then quenched with a solution of methanol (0.24 ml) in toluene (2 ml) at −70° C., followed by 0.12 ml water at 0° C. After 30 minutes stirring at ambient temperature, the gel which formed was destroyed by the addition of 1.5 ml brine and the reaction mixture was extracted with diethyl ether (50 ml). The organic phase was separated, dried with anhydrous sodium sulphate, filtered and evaporated to yield the title compound (0.2 g) as a yellow oil. The aqueous layer was basified with 10% aqueous sodium hydroxide and extracted with dichloromethane (20 ml). A further 0.08 g product was isolated from the dichloromethane extract.

reactant | DIBAL-H | 6 mmol, 4.03 ml | CC(C)C[AlH]CC(C)C
reactant | 3-carboxyethyl-4-(4-fluorophenyl)-piperidine-6-one | 2 mmol, 0.53 g | C(=O)(O)CCC1CNC(CC1C1=CC=C(C=C1)F)=O | C14H16FNO3
reactant | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 4-(4-Fluorophenyl)-3-formylpiperidine-6-one | 0.2 g | FC1=CC=C(C=C1)C1C(CNC(C1)=O)C=O | C12H12FNO2
